US06214873B1
(6) Synthesis of 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-(1hydroxy-5-phenylpentyl)phenyl)ethyl)propane
To a solution of magnesium (0.27 g) in anhydrous tetrahydrofuran (5 ml) was dropwise added a solution of 1-bromo-4-phenylbutane (2.35 g) in anhydrous tetrahydrofuran (5 ml) under a nitrogen atmosphere, and the mixture was stirred for 1.5 hours. To this solution was dropwise added a solution of 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-formylphenyl)ethyl)propane (1.2 g) in anhydrous tetrahydrofuran (15 ml) and the mixture was stirred for 1 hour. 3% Hydrochloric acid was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; hexane: ethyl acetate=2:1) to give the title compound (1.27 g) as a colorless transparent oily substance.

reactant | magnesium | 0.27 g | [Mg] | Mg
reactant | 1-bromo-4-phenylbutane | 2.35 g | BrCCCCC1=CC=CC=C1 | C10H13Br
reactant | 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-formylphenyl)ethyl)propane | 1.2 g | C(C)(=O)NC(CO[Si](C)(C)C(C)(C)C)(CO[Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)C=O | C26H47NO4Si2
reactant | Hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-(1hydroxy-5-phenylpentyl)phenyl)ethyl)propane | 1.27 g | C(C)(=O)NC(CO[Si](C)(C)C(C)(C)C)(CO[Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)C(CCCCC1=CC=CC=C1)O | C36H61NO4Si2
